US08835429B2
1-(4-(4-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-6-((dimethylamino)methyl)pyrimidin-2-yl)phenyl)-3-(4-(4-methylpiperazin-1-yl)phenyl)urea
A procedure analogous to that used for the preparation of 1-(4-(4-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-6-((dimethylamino)methyl)pyrimidin-2-yl)phenyl)-3-cyclopropylurea was used, using 1-(4-(4-methylpiperazin-1-yl)phenyl)-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea as the boronic ester component. Yield=0.128 g, 65%. MS; 557.5, M+H.

reactant | 1-(4-(4-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-6-((dimethylamino)methyl)pyrimidin-2-yl)phenyl)-3-cyclopropylurea | C12COCC(CC1)N2C2=NC(=NC(=C2)CN(C)C)C2=CC=C(C=C2)NC(=O)NC2CC2 | C23H30N6O2
reactant | 1-(4-(4-methylpiperazin-1-yl)phenyl)-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea | CN1CCN(CC1)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C24H33BN4O3
product | 1-(4-(4-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-6-((dimethylamino)methyl)pyrimidin-2-yl)phenyl)-3-(4-(4-methylpiperazin-1-yl)phenyl)urea | C12COCC(CC1)N2C2=NC(=NC(=C2)CN(C)C)C2=CC=C(C=C2)NC(=O)NC2=CC=C(C=C2)N2CCN(CC2)C | C31H40N8O2
